US08877968B2
17.2 g (89.8 mmol) of 4-methylbenzenesulfonyl chloride dissolved in 150 mL of dichloromethane are added to a solution of 20 g (89.8 mmol) of 4-phenylpiperidine-4-carbonitrile and 28 mL of triethylamine in 200 mL of dichloromethane. The reaction mixture is stirred for 1 hour at room temperature. The reaction is stopped by adding 200 mL of water, and is then extracted with dichloromethane. The organic phases are combined and dried over sodium sulfate. The solvents are evaporated off and the residue is then taken up in diethyl ether and filtered off. 30.3 g of 4-phenyl-1-(toluene-4-sulfonyl)piperidin-4-carbonitrile in the form of a white powder are obtained in a yield of 99%.

reactant | 4-methylbenzenesulfonyl chloride | 89.8 mmol, 17.2 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | 4-phenylpiperidine-4-carbonitrile | 89.8 mmol, 20 g | C1(=CC=CC=C1)C1(CCNCC1)C#N | C12H14N2
reactant | triethylamine | 28 mL | C(C)N(CC)CC | C6H15N
reactant | water | 200 mL | O | H2O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 4-phenyl-1-(toluene-4-sulfonyl)piperidin-4-carbonitrile | 30.3 g, yield of 99% | C1(=CC=CC=C1)C1(CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)C#N | C19H20N2O2S
